US06432656B1
Preparation of (R)-N-[2-Hydroxy-3-(2,3-dichlorophenoxy)propyl]-1,1-dimethyl-2-(4-methoxyphenyl)ethylamine Hydrochloride, Compound 115
Using the method of Example 6, supra, (R)-2,3-dichlorophenyl glycidyl ether (0.837 g, 3.82 mmol) and 1,1-dimethyl-2-(4-methoxyphenyl)ethylamine (0.75 g, 4.18 mmol) were used to prepare 860 mg of the title compound as a white solid: GC/EI-MS, m/z, (rel. int.) 382 (M−15,0.1), 280 (11), 278 (64), 277 (16), 276 (100), 163 (10), 121 (35), 77 (10), 71 (24), 70 (27), 58 (12).

reactant | (R)-2,3-dichlorophenyl glycidyl ether | 3.82 mmol, 0.837 g | C([C@H]1CO1)OC1=C(C(=CC=C1)Cl)Cl | C9H8Cl2O2
reactant | 1,1-dimethyl-2-(4-methoxyphenyl)ethylamine | 4.18 mmol, 0.75 g | CC(CC1=CC=C(C=C1)OC)(C)N | C11H17NO
product | (R)-N-[2-Hydroxy-3-(2,3-dichlorophenoxy)propyl]-1,1-dimethyl-2-(4-methoxyphenyl)ethylamine Hydrochloride | 860 mg | Cl.O[C@H](CNC(CC1=CC=C(C=C1)OC)(C)C)COC1=C(C(=CC=C1)Cl)Cl | InChI=1S/C20H25Cl2NO3.ClH/c1-20(2,11-14-7-9-16(25-3)10-8-14)23-12-15(24)13-26-18-6-4-5-17(21)19(18)22;/h4-10,15,23-24H,11-13H2,1-3H3;1H/t15-;/m1./s1
